US08334295B2
3-(2,6-Bis-benzyloxy-5-ethyl-pyrimidine-4-carbonyl)-5-methyl-benzonitrile:
To a stirred solution of 3-[(2,6-Bis-benzyloxy-5-ethyl-pyrimidin-4-yl)-cyano-methyl]-5-methyl-benzonitrile (10 g, 21.1 mmol) in anhydrous DMF (80 mL) in a water bath under an atmosphere of nitrogen, was added 60%, in portions, sodium hydride (869 mg, 21.7 mmol). After 30 min, oxygen gas was bubbled into the reaction mixture for 5 hr. The mixture was neutralized with aqueous saturated ammonium chloride solution. The crude product was extracted with ether and recrystallized from dichloromethane-hexane to afford 8 g (80%) of a white solid; m.p. 123-124° C.; 1H NMR (200 MHz, CDCl3) δ: 1.09 (3H, t, J=7.4 Hz), 2.43 (3H, s), 2.50 (2H, q, J=7.4 Hz), 5.35 (2H, s), 5.50 (2H, s), 7.27-7.46 (10H, m), 7.67 (1H, s), 7.87 (1H, s), 7.92 (1H, s); m/z (EI): 463 (M+).

reactant | 3-[(2,6-Bis-benzyloxy-5-ethyl-pyrimidin-4-yl)-cyano-methyl]-5-methyl-benzonitrile | 21.1 mmol, 10 g | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)C(C=1C=C(C#N)C=C(C1)C)C#N)CC)OCC1=CC=CC=C1 | C30H26N4O2
reactant | sodium hydride | 21.7 mmol, 869 mg | [H-].[Na+]
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3-(2,6-Bis-benzyloxy-5-ethyl-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 8 g, 80% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)C(=O)C=1C=C(C#N)C=C(C1)C)CC)OCC1=CC=CC=C1 | C29H25N3O3
